US09359371B2
(10) Preparation: tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1 (2H)-yl)piperidine-1-carboxylate
In the mixture of toluene (6 mL) and ethanol (2 mL) were dissolved tert-butyl 4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1 (2H)-yl)piperidine-1-carboxylate (0.104 g, 0.241 mmol) and 6-methoxypyridine-3-boronic acid (40.7 mg, 0.266 mmol). To the solution were added tetrakis triphenylphosphine palladium (0) (5 mg) and aqueous sodium carbonate (2 N, 0.36 mL). The mixture was reacted under reflux under the protection of nitrogen for 16 h, then cooled to ambient temperature and filtrated. The organic phase was concentrated under reduced pressure, dissolved in DCM, washed sequentially with water and brine, dried over sodium sulfate, concentrated and purified by silica gel column chromatography (ethyl acetate/petroleum ether=2/1) to give the product (75 mg, 61.7% yield).

reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl 4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1 (2H)-yl)piperidine-1-carboxylate | 0.241 mmol, 0.104 g | ClC1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C21H26ClN5O3
reactant | 6-methoxypyridine-3-boronic acid | 0.266 mmol, 40.7 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | sodium carbonate | 2 N, 0.36 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1 (2H)-yl)piperidine-1-carboxylate | 75 mg, 61.7% yield | COC1=CC=C(C=N1)C1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C27H32N6O4
